US06124354
3-Quinuclidinyl 1-(3-methylphenyl)cyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 from the compound prepared in Example 16 and 3-quinuclidinol. 1-(3-Methylphenyl)cyclobutanecarbonyl chloride was reacted with 3-quinuclidinol at room temperature for 15 min. The eluent was evaporated and the residue was partitioned beween Et2O and NaOH. The organic layer was extracted with 3 M HCl that was basidified and extracted with Et2O. HCl (g)/Et2O was then added whereby the product crystallized to yield 0.25 g (53%); mp 196.5-198° C.; 1H NMR (CDCl3) δ 1.51 (m, 2H), 1.76-2.20 (m, 5H), 2.32 (s, 3H), 2.51 (m, 2H), 2.70-2.80 (m, 3H), 3.03 (d, 1H), 3.24 (m, 3H), 3.52 (m, 1H), 5.00 (m, 1H), 7.05-7.30 (m, 4H)1 12.31 (bs, 1H). Anal. (C19H25NO2.HCl) C, H, N, Cl.

reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 1-(3-Methylphenyl)cyclobutanecarbonyl chloride | CC=1C=C(C=CC1)C1(CCC1)C(=O)Cl | C12H13ClO
product | 3-Quinuclidinyl 1-(3-methylphenyl)cyclobutanecarboxylate Hydrochloride | Cl.CC=1C=C(C=CC1)C1(CCC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C19H25NO2.ClH/c1-14-4-2-5-16(12-14)19(8-3-9-19)18(21)22-17-13-20-10-6-15(17)7-11-20;/h2,4-5,12,15,17H,3,6-11,13H2,1H3;1H
